US08703742B2
3-(3-Benzyloxy-propoxy)-2-hydroxy-4-methyl-benzaldehyde
Synthesized according to the methods of general procedure 4 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: 2,3-dihydroxy-4-methyl-benzaldehyde (9 g, 59.21 mmol), (3-bromo-propoxymethyl)-benzene (11.5 mL, 65.13 mmol), sodium tert-butoxide (12.52 g, 130.26 mmol) and DMSO (100 mL). Purification: flash column chromatography (5-10% EtOAc/hexane): yield 15.1 g (85%). 1H NMR (400 MHz, CDCl3) δ (ppm): 11.05 (s, 1H), 9.84 (s, 1H), 7.38-7.26 (m, 5H), 7.20 (d, J=7.8 Hz, 1H), 6.80 (d, J=8.2 Hz, 1H), 4.55 (s, 2H), 4.15 (t, J=6.2 Hz, 2H), 3.73 (t, J=6.2 Hz, 2H), 2.31 (s, 3H), 2.19-2.00 (m, 2H).

reactant | 2,3-dihydroxy-4-methyl-benzaldehyde | 59.21 mmol, 9 g | OC1=C(C=O)C=CC(=C1O)C | C8H8O3
reactant | (3-bromo-propoxymethyl)-benzene | 65.13 mmol, 11.5 mL | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | sodium tert-butoxide | 130.26 mmol, 12.52 g | CC(C)([O-])C.[Na+]
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 3-(3-Benzyloxy-propoxy)-2-hydroxy-4-methyl-benzaldehyde | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1C)O | C18H20O4
